US08859569B2
4-(Chloromethyl)-3-fluoropyridine hydrochloride
6.710 g (52.785 mmol) of (3-fluoropyridin-4-yl)methanol was put in 29 ml acetonitrile and heated to 50° C. Then a solution of 7.701 ml thionyl chloride in 14.5 ml acetonitrile was added dropwise and the reaction mixture was stirred for 4 h at 50° C. Then the reaction mixture was concentrated by evaporation and was co-distilled three times with dichloromethane. After drying under high vacuum, 10.27 g of the title compound was obtained, which was used in the next step without further purification.

reactant | (3-fluoropyridin-4-yl)methanol | 52.785 mmol, 6.710 g | FC=1C=NC=CC1CO | C6H6FNO
reactant | thionyl chloride | 7.701 ml | S(=O)(Cl)Cl | Cl2OS
solvent | acetonitrile | 29 ml | C(C)#N | C2H3N
solvent | acetonitrile | 14.5 ml | C(C)#N | C2H3N
product | 4-(Chloromethyl)-3-fluoropyridine hydrochloride | 10.27 g | Cl.ClCC1=C(C=NC=C1)F | InChI=1S/C6H5ClFN.ClH/c7-3-5-1-2-9-4-6(5)8;/h1-2,4H,3H2;1H
